US08471005B2
5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-benzimidazol-2-one
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine (60 mg, 0.2 mmol) was coupled with 5-amino-1,3-dihydro-benzimidazol-2-one (54 mg, 0.36 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 43 mg (44%) of tan powder. LC/MS: 374 (M+H); HPLC: 97% pure, RT=2.20 min; 1H NMR: (DMSO, δ) 10.49 (s, 1H), 10.39 (s, 1H), 9.20 (s, 1H), 8.88 (s, 1H), 8.83 (s, 1H), 8.47 (dd, J=8.4, 2.5, 1H), 7.25 (d, J=8.4, 1H), 7.21 (s, 1H), 7.10 (d, J=4.8, 1H), 6.95 (d, J=8.8, 1H), 6.87 (d, J=4.8, 1H), 6.79 (d, J=8.4, 1H), 3.86 (s, 3H).

reactant | 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine | 0.2 mmol, 60 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C13H12N4O2S
reactant | 5-amino-1,3-dihydro-benzimidazol-2-one | 0.36 mmol, 54 mg | NC1=CC2=C(NC(N2)=O)C=C1 | C7H7N3O
product | 5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1,3-dihydro-benzimidazol-2-one | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(NC(N1)=O)C=C2 | C19H15N7O2
